US08314091B2
D: 3-((4-(4-(3-Cyclobutylureido)benzoyl)piperazin-1-yl)methyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide
To 1-cyclobutyl-3-(4-(piperazine-1-carbonyl)phenyl)urea (0.165 mmol, 50 mg) in tetrahydrofuran (1654 μl) was added 3-(chloromethyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide (0.182 mmol, 50.9 mg) and triethylamine (0.496 mmol, 69.1 μl, 50.2 mg). The reaction was heated to reflux and stirred for 30 minutes then acetonitrile (0.5 mL) and sodium iodide (catalytic amount) were added. After 3 hours stirring, ethyl acetate was added and the organic mixture was washed with water and saturated sodium chloride. The organic phase was dried with sodium sulfate, filtered and concentrated under reduced pressure. This material was lyophilised to give the title compound (81 mg). MS (ESI) m/z 546.5 [M+H]+

reactant | 1-cyclobutyl-3-(4-(piperazine-1-carbonyl)phenyl)urea | 0.165 mmol, 50 mg | C1(CCC1)NC(=O)NC1=CC=C(C=C1)C(=O)N1CCNCC1 | C16H22N4O2
reactant | 3-(chloromethyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide | 0.182 mmol, 50.9 mg | ClCC=1C=C(C(=O)NC(C(F)(F)F)(C)C)C=CC1 | C12H13ClF3NO
reactant | triethylamine | 0.496 mmol, 69.1 μl, 50.2 mg | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | [I-].[Na+]
solvent | tetrahydrofuran | 1654 μl | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | 3-((4-(4-(3-Cyclobutylureido)benzoyl)piperazin-1-yl)methyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide | 81 mg | C1(CCC1)NC(NC1=CC=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C(F)(F)F)(C)C)C=CC2)C=C1)=O | C28H34F3N5O3
